US09284323B2
Preparation of (S)-ethyl 2-tert-butoxy-2-(2-methyl-5-(trifluoromethylsulfonyloxy)-2,3-dihydro-1H-benzo[e]isoindol-4-yl)acetate:
To a solution of (S)-ethyl 2-(3,4-bis(bromomethyl)-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate (0.1356 g, 0.219 mmol) and triethylamine (61 μL, 0.438 mmol) in anhydrous THF (10 mL) at 0° C. was added a 2M solution of methylamine in THF (109 μL, 0.219 mmol). The reaction mixture was stirred for 1 hour, then stirred overnight at room temperature. LC/MS shows some desired product. Reaction mixture was heated at 45° C. for 1.5 hours, then additional 2M solution of methylamine in THF (109 μL, 0.219 mmol) was added. After 1 hour, 2M solution of methylamine in THF (0.9 mL) was added and stirred for 45 minutes. LC/MS showed no starting material. The reaction mixture was concentrated and purified by flash column chromatography (silica gel, 30 to 100% ethyl acetate/hexanes) to give the desired product. LCMS-ESI+ (m/z): [M+H]+ calcd for C22H27F3NO6S: 490.2. Found: 490.1.

reactant | (S)-ethyl 2-(3,4-bis(bromomethyl)-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate | 0.219 mmol, 0.1356 g | BrCC=1C(=C(C2=CC=CC=C2C1CBr)OS(=O)(=O)C(F)(F)F)[C@@H](C(=O)OCC)OC(C)(C)C | C21H23Br2F3O6S
reactant | triethylamine | 0.438 mmol, 61 μL | C(C)N(CC)CC | C6H15N
reactant | methylamine | CN | CH5N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 0.219 mmol, 109 μL | C1CCOC1 | C4H8O
product | (S)-ethyl 2-tert-butoxy-2-(2-methyl-5-(trifluoromethylsulfonyloxy)-2,3-dihydro-1H-benzo[e]isoindol-4-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=C(C=3CN(CC13)C)C=CC=C2)OS(=O)(=O)C(F)(F)F | C22H26F3NO6S
